US04597906
(f) Preparation of penta-sulfosuccinic acid semiester
75 parts of castor oil-β-naphthol oxethylation product (b) are reacted with 13.1 parts of maleic anhydride, 16.8 parts of anhydrous sodium sulfite and 146.0 parts of water.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
product | penta-sulfosuccinic acid | S(=O)(=O)(O)OC(C(C(C(=O)O)(S(=O)(=O)O)S(=O)(=O)O)(S(=O)(=O)O)S(=O)(=O)O)=O | C4H6O19S5
